US08067448B2
N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-fluorobenzohydrazide
N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-fluoro benzohydrazide was prepared using 4-fluorobenzoic hydrazide (4.4 mmol, 1.1 equiv.) and (2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid (4.0 mmol, 1.0 equiv.) as described previously in the preparation of intermediate 5a. The crude golden yellow solid was recrystallized using hot methylene chloride to provide the desired product as a light yellow solid (870 mg, 54% yield). Other data: 1H NMR (400 MHz, acetone-d6, δ in ppm) 9.85 (br. s., 1H), 9.5 (br. s., 1H), 8.02 (dd, J=5.4, 8.8 Hz, 2H), 7.53 (d, J=8.8 Hz, 1H), 7.27 (d, J=8.8 Hz, 2H), 6.73 (d, J=8.5 Hz, 1H), 5.59 (br. d, J=6.8 Hz, 1H), 4.70 (br. s., 1H), 4.24 (m, 1H), 4.12 (dd, J=4.9, 7.3 Hz, 1H), 2.35 (s, 3H), 1.38 (d, J=6.3 Hz, 3H); LRMS (ESI+) exact mass calcd for C19H18ClFN4O3 [M]+ 404.82. found 405.4; TLC Rf=0.38, 100% EtOAc, vanillin stain.

reactant | 4-fluorobenzoic hydrazide | 4.4 mmol, 1.1 equiv. | FC1=CC=C(C(=O)NN)C=C1 | C7H7FN2O
reactant | (2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoic acid | 4.0 mmol, 1.0 equiv. | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)[C@@H](C)O)C | C12H13ClN2O3
product | N′-((2R,3R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-fluorobenzohydrazide | 870 mg, 54% yield | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)F)=O)[C@@H](C)O)C | C19H18ClFN4O3
